US05891871
1-(4-Amino-3-methylphenyl)-7,8-methylenedioxy-3,5-dihydro-2,3-benzodiazepin-4(4H)-one
To a suspension of 7,8-methylenedioxy-1-(3-methyl-4-nitrophenyl)-3,5-dihydro-2,3-benzodiazepin-4(4H)-one (147 mg, 0.433 mmol) in ethanol (5 mL) was added water (2.5 mL), 5% Pd/C (42 mg), and HCO2NH4 (320 mg, 5.07 mmol). The mixture was stirred at room temperature for 4 h. The catalyst was filtered out. The filtrate was concentrated in vacuo and water (25 mL) was then added to the residue. The resulting solid was collected by filtration, washed with water, and dried in vacuo to afford the title compound as a light yellow solid (65 mg, 0.21 mmol, 49%), mp: 164°-166° C. 1H NMR (CDCl3) 8.23 (s, 1H), 7.35-7.22 (m, 2H), 6.82 (s, 1H), 6.71-6.65 (m, 2H), 6.03 (s, 2H), 3.87 (s, 2H), 3.42 (s, 2H), 2.19 (s, 2H). Anal. calcd. for C17H15N3O3.H2O: C, 62.38; H, 5.23; N, 12.84. Found: C, 62.50; H, 5.19; N, 12.86.

reactant | 7,8-methylenedioxy-1-(3-methyl-4-nitrophenyl)-3,5-dihydro-2,3-benzodiazepin-4(4H)-one | 0.433 mmol, 147 mg | C1OC=2C(=CC3=C(CC(NN=C3C3=CC(=C(C=C3)[N+](=O)[O-])C)=O)C2)O1 | C17H13N3O5
reactant | water | 2.5 mL | O | H2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | Pd/C | 42 mg | [Pd] | Pd
product | 1-(4-Amino-3-methylphenyl)-7,8-methylenedioxy-3,5-dihydro-2,3-benzodiazepin-4(4H)-one | 0.21 mmol, 65 mg, 49% | NC1=C(C=C(C=C1)C1=NNC(CC2=C1C=C1C(=C2)OCO1)=O)C | C17H15N3O3
